US06953798B1
Ethyl (2RS,3RS)-3-azido-2-hydroxy-3-(4-nitrophenyl)propanoate
A mixture of ethyl (2RS,3RS)-3-(4-nitrophenyl-2-oxirane carboxylate [prepared by the method of Moyna, G., Williams, H. J., Scott, A. I., Synth. Commun, (1996) 26, 2235-9] (2.5 g, 10.5 mmol) sodium azide (3.4 g, 52.5 mmol), ethyl formate (10 ml) in EtOH/water (8:1, 50 ml) was heated at 50° overnight. The mixture was diluted with EtOAc, washed with water and brine, dried (Na2SO4) and evaporated in vacuo. Column chromatography (SiO2; MeOH/DCM, 1:99) gave the title compound as a yellow oil (2.34 g) (less polar regioisomer). δH (CDCl3) 8.24 (2H, d, J 8.8 Hz, ArH), 7.55 (2H, d, J 8.9 Hz, ArH), 5.02 (1H, d, J 3.7 Hz, CHN3), 4.57 (1H, dd, J 5.3, 3.7 Hz, CHOH), 4.25-4.14 (2H, m, CO2CH2), 3.15 (1H, d, J 5.5 Hz, OH), 1.21 (3H, t, J 7.2 Hz, CO2CH2CH3). m/z (ES+, 70V) 253 (M+−N2).

reactant | 4-nitrophenyl-2-oxirane carboxylate | [N+](=O)([O-])C1=CC=C(C=C1)C1(OC1)C(=O)[O-]
reactant | sodium azide | 10.5 mmol, 2.5 g | [N-]=[N+]=[N-].[Na+]
reactant | ethyl formate | 10 ml | C(=O)OCC | C3H6O2
solvent | EtOH water | 50 ml | CCO.O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | Ethyl (2RS,3RS)-3-azido-2-hydroxy-3-(4-nitrophenyl)propanoate | 2.34 g | N(=[N+]=[N-])C(C(C(=O)OCC)O)C1=CC=C(C=C1)[N+](=O)[O-] | C11H12N4O5
